US09403807B2
Step B: methyl 2-(4-chlorophenyl)-2-(4-(methylsulfonamido)-1H-indazol-1-yl)butanoate
To a mixture of methyl 2-(4-amino-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate (1.0 g, 2.9 mmol) and NMM (0.9 g, 8.7 mmol) in DCM (10 mL) was added MsCl (0.4 g, 3.2 mmol) dropwise, Then the mixture was stirred at room temperature overnight. The solution was quenched with saturated NH4Cl solution, and extracted with ethyl acetate (50 mL). The organic layer was washed with brine, dried over sodium sulfate, filtered and evaporated. The residue was purified by silica gel chromatography (eluent: PE/EA=4/1) to afford the title compound as a yellow solid. LC/MS m/z=422.1 [M+H]+.

reactant | methyl 2-(4-amino-1H-indazol-1-yl)-2-(4-chlorophenyl)butanoate | 2.9 mmol, 1.0 g | NC1=C2C=NN(C2=CC=C1)C(C(=O)OC)(CC)C1=CC=C(C=C1)Cl | C18H18ClN3O2
reactant | NMM | 8.7 mmol, 0.9 g | CN1CCOCC1 | C5H11NO
reactant | MsCl | 3.2 mmol, 0.4 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | methyl 2-(4-chlorophenyl)-2-(4-(methylsulfonamido)-1H-indazol-1-yl)butanoate | ClC1=CC=C(C=C1)C(C(=O)OC)(CC)N1N=CC2=C(C=CC=C12)NS(=O)(=O)C | C19H20ClN3O4S
